US04638005
1-Methyl-3-sulfonylpyrazine (2000)
4.0 g of Pyrazine-2-sulfonic acid sodium salt (1900) was added to a solution of 20 ml methyl iodide/40 ml methanol and the mixture refluxed for 7 days. The solvent was evaporated and the residue chromatographed (Biogel P-2/water) giving 3.5 g of product (2000) which was recrystallized from ethanol/water, m.p. 270°-2° (dec). UV H2O max: 282 (3.86).

reactant | Pyrazine-2-sulfonic acid sodium salt | 4.0 g | [Na+].N1=C(C=NC=C1)S(=O)(=O)[O-]
reactant | methyl iodide | 20 ml | CI | CH3I
product | 1-Methyl-3-sulfonylpyrazine | 3.5 g | CN1CC(NC=C1)=S(=O)=O | C5H8N2O2S
